US04352805
A 2,2-Dimethyl-2-(3,4-dimethoxyphenyl)ethanol (0.95 g, 0.0045 m) is stirred with 1.07 g (0.0054 m) of the ethyl acetal of bromoacetaldehyde and 0.19 g (0.0014 m) of BF3 .etherate in 25 ml of nitromethane for 15 hours. The mixture is partitioned between methylene chloride and aqueous sodium carbonate. The organic phase is dried over sodium sulfate and concentrated to yield 1.52 g of 4,4-dimethyl-6,7-dimethoxy-1-bromomethylisochroman. The nmr is consistent with the assigned structure.

reactant | 2,2-Dimethyl-2-(3,4-dimethoxyphenyl)ethanol | 0.95 g | CC(CO)(C1=CC(=C(C=C1)OC)OC)C | C12H18O3
reactant | bromoacetaldehyde | BrCC=O | C2H3BrO
reactant | BF3 | 0.19 g | B(F)(F)F | BF3
solvent | nitromethane | 25 ml | [N+](=O)([O-])C | CH3NO2
product | 4,4-dimethyl-6,7-dimethoxy-1-bromomethylisochroman | 1.52 g | CC1(COC(C2=CC(=C(C=C12)OC)OC)CBr)C | C14H19BrO3
